US07429609B2
6-Fluoro-3-[(E)-2-(4-fluorophenyl)-vinyl]-5-nitro-1-trityl-1H-indazole
To a solution of 600 mg of 3-bromo-6-fluoro-5-nitro-1-trityl-1H-indazole in 6 mL of N,N-dimethylformamide were successively added 292 mg of 4-fluorostyrene, 71 mg of 2-(di-tert-butylphosphino)biphenyl, 27 mg of palladium acetate (II) and 0.85 mL of triethylamine, and stirred at 80° C. for 6.5 hours. The solvent was evaporated, and the resulting residue was dissolved in 25 mL of ethyl acetate. The organic layer was successively washed with water (twice) and saturated brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated. The obtained crude crystal was recrystallized from ethyl acetate-diisopropylether, to afford 304 mg of the title compound as bright yellow crystals.

reactant | 3-bromo-6-fluoro-5-nitro-1-trityl-1H-indazole | 600 mg | BrC1=NN(C2=CC(=C(C=C12)[N+](=O)[O-])F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H17BrFN3O2
reactant | 4-fluorostyrene | 292 mg | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | 2-(di-tert-butylphosphino)biphenyl | 71 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | triethylamine | 0.85 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 27 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Fluoro-3-[(E)-2-(4-fluorophenyl)-vinyl]-5-nitro-1-trityl-1H-indazole | 304 mg | FC1=C(C=C2C(=NN(C2=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C1=CC=C(C=C1)F)[N+](=O)[O-] | C34H23F2N3O2
